US09278915B2
Intermediate 39: 3-Fluoro-4-hydroxybenzaldehyde
To a 25 mL RB flask fitted with magnetic stirrer was charged with 20 mL of dichloromethane. To the stirred solvent was added 3-fluoro-4-methoxybenzaldehyde (2 g, 12.97 mmol). The reaction mixture was cooled to −78° C. and boron tribromide (51 mL) was added drop wise, stirred for 2 h at the same temperature and stirred at RT about 16 h. The reaction mixture was quenched with NaHCO3 solution at 0° C. by slow addition. The reaction mixture was concentrated to distill off the solvent; ethyl acetate (20 mL) was added. The organic layer was washed with saturated NaHCO3 solution (20 mL), followed by brine solution (20 mL). The organic layer was dried over anhydrous Na2SO4 and the solvent was removed under reduced pressure. The product was obtained as white solid (1.0 g, yield: 54.94%). 1H NMR (300 MHz, CDCl3): δ 9.77 (s, 1H), 7.54-7.59 (m, 1H), 7.08-7.12 (t, 1H), 6.40 (s, 1H).

reactant | 3-fluoro-4-methoxybenzaldehyde | 12.97 mmol, 2 g | FC=1C=C(C=O)C=CC1OC | C8H7FO2
reactant | boron tribromide | 51 mL | B(Br)(Br)Br | BBr3
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | 3-Fluoro-4-hydroxybenzaldehyde | 1.0 g, yield: 54.94% | FC=1C=C(C=O)C=CC1O | C7H5FO2
